US07501411B2
Step 2: 4-Bromo-thiophene-2-carboxylic acid amide
A solution of 4 bromo-thiophene-2-carboxylic acid (2.0 g, 9.66 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (2.04 g, 10.63 mmol) and 1-hydroxybenzotriazole hydrate (1.44 g, 10.63 mmol) in DMF (20 mL) is stirred at room temperature for 2 hours. The reaction mixture is then cooled to 0° C. and aq. NE3 (1 mL, 17.3 mmol) is added. The mixture is stirred at room temperature for an additional 5 hours, then water is added to the reaction mixture and the resultant precipitate is collected by filtration and washed with 1M NaOH, H2O and petroleum ether. The title compound is isolated as a white solid (1.56 g, 78%).

reactant | bromo-thiophene-2-carboxylic acid | 9.66 mmol, 2.0 g | BrC1=C(SC=C1)C(=O)O | C5H3BrO2S
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 10.63 mmol, 2.04 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 10.63 mmol, 1.44 g | O.ON1N=NC2=C1C=CC=C2
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-thiophene-2-carboxylic acid amide | BrC=1C=C(SC1)C(=O)N | C5H4BrNOS
